US07935688B2
(1) Synthesis of [4′-(1-{4-[3-(t-butyl-dimethyl-silanyloxy)-4,4-dimethyl-pentyl]-3-methyl-phenyl}-1-ethyl-propyl)-2′-methyl-biphenyl-4-yl]-acetic Acid Methyl Ester
Degassed N,N-dimethylformamide (0.37 mL) was added to t-butyl-(1-{2-[4-(1-ethyl-1-{4-[4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl]-3-methyl-phenyl}-propyl)-2-methyl-phenyl]-ethyl}-2,2-dimethyl-propoxy)dimethylsilane (Example 24-(1); 35.3 mg, 0.0582 mmol), 4-bromo-phenyl-acetic acid methyl ester (Tetrahedron Letters 44 (2003) 331-334; 18.6 mg, 0.812 mmol), tetrakis(triphenylphosphine)palladium (0) (9.1 mg, 0.0079 mmol) and potassium phosphate (26.9 mg, 0.127 mmol). After replacement with nitrogen, the mixture was heated while stirring at an external temperature of 87 to 94° C. for three hours. Water was added to the reaction mixture, followed by extraction with diethyl ether. The extract was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=50/1) to give the title compound (31.5 mg, 86%).

reactant | t-butyl-(1-{2-[4-(1-ethyl-1-{4-[4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl]-3-methyl-phenyl}-propyl)-2-methyl-phenyl]-ethyl}-2,2-dimethyl-propoxy)dimethylsilane | 0.0582 mmol, 35.3 mg | C(C)(C)(C)[Si](C)(C)OC(C(C)(C)C)CCC1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)CC)C | C38H63BO3Si
reactant | 4-bromo-phenyl-acetic acid methyl ester | 0.812 mmol, 18.6 mg | COC(CC1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | potassium phosphate | 0.127 mmol, 26.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.0079 mmol, 9.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | [4′-(1-{4-[3-(t-butyl-dimethyl-silanyloxy)-4,4-dimethyl-pentyl]-3-methyl-phenyl}-1-ethyl-propyl)-2′-methyl-biphenyl-4-yl]-acetic Acid Methyl Ester | 31.5 mg, 86% | COC(CC1=CC=C(C=C1)C1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)CCC(C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C)=O | C41H60O3Si
